US08497265B2
Step 1. Tert-Butyl 4-((3-Morpholinopyridin-2-yl)Oxy)Piperidine-1-Carboxylate
To a solution of tert-butyl 4-((3-bromopyridin-2-yl)oxy)piperidine-1-carboxylate (see PREPARATION P20.4; 4 g, 11.2 mmol), morpholine (1.46 g, 16.8 mmol), Pd2(dba)3 (513 mg, 0.56 mmol), 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (BINAP) (349 mg, 0.56 mmol), sodium tert-butoxide (t-BuONa) (2.15 g, 22.4 mmol) then the reaction mixture was stirred at 90° C. for overnight. The mixture was left to reach room temperature, then the reaction mixture was filtered through a pad of CELITE® and the filter cake was washed with CH2Cl2 (3×20 mL). The combined filtrates were evaporated in vacuo and the residue was purified by column chromatography to give the product (3.1 g, 8.7 mmol, yield 70%). ESI-MS (M+1): 364 calc. for C19H29N3O4 363.

reactant | tert-butyl 4-((3-bromopyridin-2-yl)oxy)piperidine-1-carboxylate | 11.2 mmol, 4 g | BrC=1C(=NC=CC1)OC1CCN(CC1)C(=O)OC(C)(C)C | C15H21BrN2O3
reactant | morpholine | 16.8 mmol, 1.46 g | N1CCOCC1 | C4H9NO
reactant | sodium tert-butoxide | 22.4 mmol, 2.15 g | CC(C)([O-])C.[Na+]
catalyst | Pd2(dba)3 | 0.56 mmol, 513 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.56 mmol, 349 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
product | Tert-Butyl 4-((3-Morpholinopyridin-2-yl)Oxy)Piperidine-1-Carboxylate | 8.7 mmol, 3.1 g, yield 70% | O1CCN(CC1)C=1C(=NC=CC1)OC1CCN(CC1)C(=O)OC(C)(C)C | C19H29N3O4
